US04942245
2-[4-(4-Acetyl-3-hydroxy-2-propylphenoxy)butyl]-benzimidazole-5-carboxylic acid
A mixture of ethyl 5-(4-acetyl-3-hydroxy-2-propylphenoxy)-pentanimidate hydrochloride (3.0 g) and ethyl 3,4-diaminobenzoate (1.4 g) in ethanol (40 ml) was stirred at room temperature for 24 hours. To the mixture was added a solution of sodium hydroxide (1.6 g/30 ml of water) and the resulting mixture was refluxed for 40 minutes. After removal of the solvent under reduced pressure, the mixture was poured into ice-water, acidified with concentrated hydrochloric acid and extracted with ethyl acetate. The organic layer was washed with water and dried over anhydrous sodium sulfate. The extract was evaporated and the resulting residue was purified by silica gel column chromatography, eluting with dichloromethane-ethanol (9:1), to give the title compound (2.0 g, 58.1 %) as amorphous powder, mp 98-100 ° C.

reactant | ethyl 5-(4-acetyl-3-hydroxy-2-propylphenoxy)-pentanimidate hydrochloride | 3.0 g | Cl.C(C)(=O)C1=C(C(=C(OCCCCC(OCC)=N)C=C1)CCC)O
reactant | ethyl 3,4-diaminobenzoate | 1.4 g | NC=1C=C(C(=O)OCC)C=CC1N | C9H12N2O2
reactant | sodium hydroxide | 30 ml, 1.6 g | [OH-].[Na+]
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-[4-(4-Acetyl-3-hydroxy-2-propylphenoxy)butyl]-benzimidazole-5-carboxylic acid | 2.0 g, 58.1 % | C(C)(=O)C1=C(C(=C(OCCCCC=2NC3=C(N2)C=CC(=C3)C(=O)O)C=C1)CCC)O | C23H26N2O5
